US05696129
A mixture of ethyl 2-pyridylacetate (6.0 g, 0.036 mole) and ethyl bromoacetate (4.4 ml, 0.038 mole) was allowed to stand at room temperature for 72 h, during which time the product gradually crystallised out. The mixture was treated with acetone (80 ml) to dissolve unreacted starting materials and then filtered. The solid collected was dried under vacuum to afford 1,2-di-[(ethoxycarbonyl)methyl]pyridinium bromide as a beige solid (3.53 g, 30%).

reactant | ethyl 2-pyridylacetate | 0.036 mole, 6.0 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | ethyl bromoacetate | 0.038 mole, 4.4 ml | BrCC(=O)OCC | C4H7BrO2
product | 1,2-di-[(ethoxycarbonyl)methyl]pyridinium bromide | 3.53 g, 30% | [Br-].C(C)OC(=O)C[N+]1=C(C=CC=C1)CC(=O)OCC | InChI=1S/C13H18NO4.BrH/c1-3-17-12(15)9-11-7-5-6-8-14(11)10-13(16)18-4-2;/h5-8H,3-4,9-10H2,1-2H3;1H/q+1;/p-1
